US09062032B2
To a mixture of 480 mg of 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoic acid and 10 ml of methylene chloride was added 160 mg of 1-chloro-N,N,2-trimethylpropenylamine under ice cooling, followed by stirring for 1 hour at room temperature. 10 ml of a methylene chloride solution containing 450 mg of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate and 0.20 mL of pyridine was added to the reaction mixture under ice cooling, followed by stirring for 1 hour under ice cooling and then for 4 days at room temperature. The reaction mixture was concentrated under reduced pressure, ethyl acetate and water were added thereto, and the organic layer was separated. The organic layer was washed with a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine in this order and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), thereby obtaining 830 mg of methyl 4-[2-(4-{[(2-{[3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate.

reactant | 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoic acid | 480 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C(=O)O)C=CC1 | C25H28O3Si
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 160 mg | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 450 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
solvent | pyridine | 0.20 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-[2-(4-{[(2-{[3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 830 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C50H52N2O5SSi
